US06255276B1
84.5 g (0.31 mol) of methyl 14-hydroxy-7-methyl-tetradec-6-enoate, 21 g of 86 percent potassium hydroxide in 220 ml of methanol, 72 g of chloropropane- 1,2-diol and 9 ml of 5.4M methanolic sodium methylate solution were mixed according to the procedure in Example 6. The product was distilled (b.p. 114° C.) in a high vacuum (0.1 Torr) and subsequently chromatographed. 29 g (38%) of 8-methyloxacyclopentadec-7-en-2-one were obtained having the following characteristics, Z/E=60/40;

reactant | methyl 14-hydroxy-7-methyl-tetradec-6-enoate | 0.31 mol, 84.5 g | OCCCCCCCC(=CCCCCC(=O)OC)C | C16H30O3
reactant | potassium hydroxide | 21 g | [OH-].[K+]
reactant | chloropropane- 1,2-diol | 72 g | ClC(C(C)O)O | C3H7ClO2
reactant | sodium methylate | 5.4M, 9 ml | C[O-].[Na+]
solvent | methanol | 220 ml | CO | CH4O
product | 8-methyloxacyclopentadec-7-en-2-one | 29 g, 38% | CC1=CCCCCC(OCCCCCCC1)=O | C15H26O2
